US05558971
Synthesis of poly(p-1-ethoxyethoxystyrene/p-hydroxystyrene)
To a solution of poly(p-hydroxystyrene) (4.0 g) obtained in above (2) and ethyl vinyl ether (1.2 g) in a mixed solvent (35 ml) of 1,4-dioxane and pyridine, a catalytic amount of p-toluenesulfonic acid was added and reacted with stirring at room temperature for 24 hours. The reaction mixture was poured into H2O (1 l) and a white solid was precipitated. The polymer was filtered, washed with h2O and dried under reduced pressure to afford 5.0 g of poly[p-(1-ethoxyethoxy)-styrene/p-hydroxystyrene] as white powder having Mw 10000 (GPC with polystyrene calibration). The polymer was found to have p-(1-ethoxyethoxy)styrene unit and p-hydroxystyrene unit in a molar ratio of ca. 4:6 based on 1HNMR.

reactant | p-(1-ethoxyethoxy)styrene | C(C)OC(C)OC1=CC=C(C=C)C=C1 | C12H16O2
reactant | p-hydroxystyrene | OC1=CC=C(C=C)C=C1 | C8H8O
product | p-1-ethoxyethoxystyrene p-hydroxystyrene | C(C)OCCOC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C12H16O2.C8H8O/c1-3-11-5-7-12(8-6-11)14-10-9-13-4-2;1-2-7-3-5-8(9)6-4-7/h3,5-8H,1,4,9-10H2,2H3;2-6,9H,1H2
